US07871998B2
Ethyl {[(5,5-dimethyl-2-phenyl-1,3-dioxan-2-yl)methyl]thio}acetate
Ethyl [(2-oxo-2-phenylethyl)thio]acetate (10.8 g, 45.3 mmol) was dissolved in toluene (250 ml). 2,2-Dimethyl-1,3-propanediol (37.6 g, 0.36 mol) and p-toluene sulfonic acid (cat., 500 mg) were added. The mixture was stirred at reflux in a Dean-Stark apparatus for two hours and at room temperature overnight. The mixture was concentrated under reduced pressure. The crude oil was purified by flash-chromatography (hexane:EtOAc-7:1) to give 11.2 g (70%) of the title compound as a colourless oil. 1H-NMR (CDCl3, 200 MHz): δ 0.6 (s, 3H), 1.2-1.3 (t, 3H), 1.4 (s, 3H), 3.0 (s, 2H), 3.2 (s, 2H), 3.5 (s, 4H), 4.1-4.2 (q, 2H), 7.3-7.6 (m, 5H).

reactant | Ethyl [(2-oxo-2-phenylethyl)thio]acetate | 45.3 mmol, 10.8 g | O=C(CSCC(=O)OCC)C1=CC=CC=C1 | C12H14O3S
reactant | 2,2-Dimethyl-1,3-propanediol | 0.36 mol, 37.6 g | CC(CO)(CO)C | C5H12O2
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluene sulfonic acid | 500 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | Ethyl {[(5,5-dimethyl-2-phenyl-1,3-dioxan-2-yl)methyl]thio}acetate | 11.2 g, 70% | CC1(COC(OC1)(C1=CC=CC=C1)CSCC(=O)OCC)C | C17H24O4S
